US04209625
By following the procedure of Example 1c, 2-ethyl-1'-methylspiro[indoline-3,4'-piperidine], the free base of part a, is treated with 4-chlorofluorobenzene to yield 1-(4-chlorophenyl)-2-ethyl-1'-methylspiro[indoline-3,4'-piperidine].

reactant | 2-ethyl-1'-methylspiro[indoline-3,4'-piperidine] | C(C)C1NC2=CC=CC=C2C12CCN(CC2)C | C15H22N2
reactant | 4-chlorofluorobenzene | ClC1=CC=C(C=C1)F | C6H4ClF
product | 1-(4-chlorophenyl)-2-ethyl-1'-methylspiro[indoline-3,4'-piperidine] | ClC1=CC=C(C=C1)N1C(C2(CCN(CC2)C)C2=CC=CC=C12)CC | C21H25ClN2
